US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 16, making variations as required to replace N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methylthiazole-5-carboxamide with 2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide, the title compound was obtained as a colorless solid in 96% yield: mp 64-66° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.64-8.45 (m, 2H), 7.68-7.63 (m, 1H), 7.30-7.10 (m, 3H), 7.05-6.97 (m, 2H), 6.57 (br s, 1H), 6.04-5.75 (m, 2H), 4.56 (d, J=6.0 Hz, 2H), 4.48 (s, 2H), 3.62-3.56 (m, 1H), 3.29-3.25 (m, 1H), 2.52 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.5, 162.4, 157.0, 153.7, 148.9, 135.7, 135.0, 133.9, 131.0, 129.9, 123.6, 117.4, 116.0, 115.7, 60.4, 49.5, 46.7, 41.4, 17.2; MS (ES+) m/z 442.3 (M+1).

reactant | N-benzyl-2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)N(CC1=CC=C(C=C1)F)CC(OC)OC)C | C24H27FN4O4S
reactant | 2-(3-(2,2-dimethoxyethyl)-3-(4-fluorobenzyl)ureido)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | COC(CN(C(NC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)CC1=CC=C(C=C1)F)OC | C23H26FN5O4S
product | 2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 96% yield | FC1=CC=C(CN2C(N(C(C2)O)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C21H20FN5O3S
